US04322429
MIXTURE OF 3-(4-BIPHENYLYL)-3-METHOXYACRYLONITRILE PLUS 3-(4-BIPHENYLYL)-3,3-DIMETHOXYPROPIONITRILE
3-(4-Biphenylyl)-2,3-dibromopropionitrile (16 grams) and sodium methoxide (4.7 grams) in 500 ml. of methanol were reacted in an ice bath. A solid precipitated at once and then the reaction mixture was stirred for 2 hours. The final product was determined by NMR to be a mixture of 3-(4-biphenylyl)-3-methoxyacrylonitrile plus 3-(4-biphenylyl)-3,3-dimethoxypropionitrile.

reactant | 3-(4-Biphenylyl)-2,3-dibromopropionitrile | 16 grams | C1(=CC=C(C=C1)C(C(C#N)Br)Br)C1=CC=CC=C1 | C15H11Br2N
reactant | sodium methoxide | 4.7 grams | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 3-(4-BIPHENYLYL)-3-METHOXYACRYLONITRILE | C1(=CC=C(C=C1)C(=CC#N)OC)C1=CC=CC=C1 | C16H13NO
